Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Confusion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with history of
non-insulin-dependent diabetes, bipolar disorder, hypertension,
hyperlipidemia, peripheral vascular disease who presents with
altered mental status and recent fall. 

History from patient is limited as she has been confused at home
and does not remember many events. Patient reports that for the
past week she has felt confused. She reports that her son called
her yesterday and was concerned because "I didn't sound good",
though she does not remember this conversation. She also reports
falling, and does not remember how this happened. She does
remember hitting her back, and notes that the back of the right
knee, which had been bothering her, has been more painful after
the fall. Patient otherwise reports that she has felt very tired
and not herself, with low energy. She states that her memory
hasn't been the same, though is not able to further describe
this. She has developed urinary incontinence, which is new in 
the
past month. She otherwise denies any pain with urination or
increased frequency. No fevers or chills that she is aware of.
She reports that she has not missed any medications, which she
manages herself.

She does report diarrhea, which has been ongoing for several
years, but has been fairly severe this week. She had a small
amount of dark pink blood after a recent bowel movement as well.
No abdominal pain. She normally takes loperamide for diarrhea,
and feels that it is related to certain foods as it has improved
over the years with decreasing dairy in her diet. 

Per ED report, "Her son reports that over the past month or so
she has been having a slow decline, with intermittent confusion
(he mentions things like starting her to check and forgetting
that she is writing to). 2 days ago she had a fall at home, and
since then she has been getting worse. He reports her speech
seems a bit slurred and she seems increasingly confused."

On review of records, patient was last seen in psychiatry clinic
on ___ for follow up of bipolar disorder. She overall was
feeling well, and her medication regimen was continued. 

In the ED:

Initial vital signs were notable for: T 96.6, HR 93, BP 168/62,
RR 18, 97% RA 

Labs were notable for:

- CBC: WBC 8.5, hgb 11.1, plt 261

- Lytes:

135 / 98 / 25     AGap=16 
-------------- 639 
4.4 \\ 21 \\ 1.2 
 
- LFTs: AST: 39 ALT: 28 AP: 85 Tbili: 0.2 Alb: 4.0 
- lipase 16
- lactate 2.0

Studies performed include:
- NCHCT with no acute intracranial abnormality
- CXR with no acute cardiopulmonary abnormality.

Patient was given:
___ 20:13 IVF  LR 1000 mL 
___ 20:45 IV CefTRIAXone (1 g ordered) 
___ 20:45 IV Insulin (Regular) 10 units 

After 2 hours, glucose had improved to 228, and therefore 
patient
was able to be admitted to the floor. 

Vitals on transfer: T 97.3, HR 64, BP 154/70, RR 18, 9% RA 

Upon arrival to the floor, patient states that overall she is
feeling much better than when she came in. She currently has 
pain
behind her right knee, but otherwise reports no current
complaints. She recounts the history as above. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
- type II diabetes
- hypertension 
- Bipolar disorder 
- schizoaffective disorder
- osteoarthritis 
- PVD s/p right and left external iliac artery stent ___
 
Social History:
___
Family History:
- son - hypertension 
 
Physical ___:
ADMISSION EXAM:
VITALS: T 98.4, HR 62, BP 140/75, RR 20, 96%RA
GENERAL: Alert and in no apparent distress, oriented x3
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate. Moist
mucous membranes 
CV: Heart regular, ___ systolic murmur at RUSB, no S3, no S4.  
No
JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Right knee with pain to palpation in medial side of medial
joint line, as well as posterior joint. Full ROM without further
pain elicited
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
GENERAL: NAD, oriented x3
CV: RRR, ___ systolic murmur at RUSB, no S3, no S4.  
RESP: easy WOB, CTAB
GI: Abdomen soft, ND, NT, NABS
MSK: Right knee with pain to palpation in medial side of medial
joint line, as well as posterior joint. Full ROM without further
pain elicited.  Edema over patella.  No erythema, warmth.
SKIN: No rashes or ulcerations noted
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS:

___ 07:00PM   GLUCOSE-639* UREA N-25* CREAT-1.2* SODIUM-135 
POTASSIUM-4.4 CHLORIDE-98 TOTAL CO2-21* ANION GAP-16
___ 07:00PM   ALT(SGPT)-28 AST(SGOT)-39 ALK PHOS-85 TOT 
BILI-0.2
___ 07:00PM   LIPASE-16
___ 07:00PM   ALBUMIN-4.0 CALCIUM-10.1 PHOSPHATE-4.3 
MAGNESIUM-1.6
___ 07:09PM   ___ PO2-67* PCO2-39 PH-7.39 TOTAL CO2-24 
BASE XS-0
___ 07:00PM   WBC-8.5 RBC-4.31 HGB-11.1* HCT-35.1 MCV-81* 
MCH-25.8* MCHC-31.6* RDW-13.4 RDWSD-39.7
___ 07:00PM   NEUTS-65.2 ___ MONOS-8.6 EOS-0.9* 
BASOS-0.4 IM ___ AbsNeut-5.54 AbsLymp-2.06 AbsMono-0.73 
AbsEos-0.08 AbsBaso-0.03
___ 07:00PM   PLT COUNT-261
___ 07:00PM   ___ PTT-30.5 ___
___ 07:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-1000* KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-MOD*
___ 07:20PM URINE  RBC-4* WBC-20* BACTERIA-FEW* YEAST-NONE 
EPI-3
___ 08:43PM   GLUCOSE-530* LACTATE-2.0
___ 11:46PM   %HbA1c-12.2* eAG-303*

INTERVAL DATA:
No acute cardiopulmonary abnormality.
___ 06:17AM BLOOD VitB12-1783*
___ 06:20AM BLOOD calTIBC-355 Ferritn-107 TRF-273
___ 06:17AM BLOOD TSH-5.7*

CT HEAD
EXAMINATION:  CT HEAD W/O CONTRAST Q111 CT HEAD
 
INDICATION:  History: ___ with AMS, fall// eval ICH; eval pna
 
TECHNIQUE:  Contiguous axial images of the brain were obtained 
without
contrast. Coronal and sagittal reformations as well as bone 
algorithm
reconstructions were provided and reviewed.
 
DOSE:  Acquisition sequence:
   1) Sequenced Acquisition 16.0 s, 16.8 cm; CTDIvol = 47.9 mGy 
(Head) DLP =
802.7 mGy-cm.
 Total DLP (Head) = 803 mGy-cm.
 
COMPARISON:  None.
 
FINDINGS: 
 
There is no evidence of acute large territorial 
infarction,hemorrhage,edema,
or mass.  Left caudate head nucleus and left putamen chronic 
lacunar infarcts
are demonstrated.  Periventricular and subcortical white matter 
hypodensity is
nonspecific, but likely reflect sequelae of chronic small vessel 
ischemic
disease.  There is prominence of the ventricles and sulci 
suggestive of
involutional changes.
 
There is no evidence of fracture.  The visualized portion of the 
paranasal
sinuses, mastoid air cells, and middle ear cavities are clear.  
The visualized
portion of the orbits are unremarkable.  Mild atherosclerotic 
calcifications
of the cavernous carotid arteries are noted.
 
IMPRESSION: 
 
No acute intracranial abnormality.

RIGHT KNEE XR:
Final Report
EXAMINATION:  KNEE (AP, LAT AND OBLIQUE) RIGHT
 
INDICATION:  ___ year old woman with history of osteoarthritis, 
s/p fall with
increased pain of right knee// eval for trauma
 
TECHNIQUE:  Three views right knee
 
COMPARISON:  Right knee radiographs ___
 
FINDINGS: 
 
No fracture, dislocation or degenerative change seen. No 
destructive lytic or
sclerotic bone lesions.  No radiopaque foreign body.  Mild 
vascular
calcification.  There is a moderate joint effusion in the 
suprapatellar
recess.
 
IMPRESSION: 
Moderate joint effusion.  Otherwise unremarkable right knee 
radiographs

Chest XR:
EXAMINATION:  CHEST (PA AND LAT)
 
INDICATION:  History: ___ with AMS, fall// eval ICH; eval pna
 
TECHNIQUE:  Chest PA and lateral
 
COMPARISON:  Chest radiograph ___
 
FINDINGS: 
 
Heart size is normal.  The mediastinal and hilar contours are 
normal. The
pulmonary vasculature is normal. Lungs are clear.  No pleural 
effusion or
pneumothorax is seen. There are no acute osseous abnormalities.
 
IMPRESSION: 
No acute cardiopulmonary abnormality
 
Brief Hospital Course:
___ yo F PMHx T2DM c/b peripheral neuropathy, bipolar disorder,
HTN, HLD, PVD who presents with altered mental status and recent
fall, found to be hyperglycemic. 

# Hyperglycemia
# Type II diabetes
# Toxic-metabolic encephalopathy ___ hyperglycemia
Blood glucose found to be 639 on admission without an elevated
anion gap or acidosis on VBG.  A1c 12.2 despite reported
compliance with max doses of PO medications.  She was started on 
insulin.  Patient and family educated on insulin administration.
Regimen at discharge was glargine 30 units qAM with 12 units 
Humalog AC.
She will follow-up with PCP and ___.

# Fall
Patient and her son reported worsening confusion over month 
prior to admission,
mental status acutely worse in week prior to admission.  
She also reports a fall and decreased balance prior to 
admission.  
Suspect related to hyperglycemia, though does have underlying 
chronic small vessel disease seen on ___.  Patient recommended 
for home ___. 
She was cleared by OT.  It was recommended to follow-up with 
Cognitive Neurology 
for further testing. 

# ___ 
Cr 1.2 at admission from baseline 0.9. Likely prerenal in 
setting of hyperglycemia.  Resolved with IVF.

# Right knee pain 
Acute on chronic, worsening after fall.  Developed right knee 
effusion, likely post-traumatic.  XR negative for fracture.  
Recommend repeat right knee XR in 4 weeks to re-assess for 
resolution.

# Elevated TSH
TSH resulted high at time of discharge.  Recommend follow-up 
T3/T4 testing.

CHRONIC/STABLE PROBLEMS:
# Bipolar disorder 
# Schizoaffective disorder
Continued home bupropion 200mg BID, Ativan 1mg at bedtime
(MassPMP reviewed), Seroquel 200mg QHS, ziprasidone 80mg BID,
propranolol 10mg daily

# Peripheral vascular disease s/p stent x ___
Continued home aspirin 81mg, cilostazol 
Increased to atorvastatin 40 daily (meets criteria for higher
intensity)

# Hypertension
Continued home chlorthalidone and irbesartan 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. BuPROPion (Sustained Release) 200 mg PO BID 
2. QUEtiapine Fumarate 200 mg PO QHS 
3. ZIPRASidone Hydrochloride 80 mg PO BID 
4. GlipiZIDE 20 mg PO BID 
5. LORazepam ___ mg PO QHS:PRN insomnia 
6. MetFORMIN XR (Glucophage XR) ___ mg PO QPM 
7. Simvastatin 40 mg PO QPM 
8. Propranolol 10 mg PO DAILY 
9. Chlorthalidone 25 mg PO DAILY 
10. Cilostazol 100 mg PO BID 
11. Januvia (SITagliptin) 100 mg oral DAILY 
12. irbesartan 300 mg oral DAILY 
13. Aspirin 81 mg PO DAILY 
14. LOPERamide 2 mg PO QID:PRN diarrhea 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild/Fever 
RX *acetaminophen 500 mg ___ tablet(s) by mouth q8 hours Disp 
#*150 Tablet Refills:*0 
2.  Acyclovir 800 mg PO Q12H 
RX *acyclovir 800 mg 1 tablet(s) by mouth twice a day Disp #*9 
Tablet Refills:*0 
3.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth qPM Disp #*30 Tablet 
Refills:*0 
4.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0 
5.  Glargine 30 Units Breakfast
Humalog 12 Units Breakfast
Humalog 12 Units Lunch
Humalog 12 Units Dinner
RX *insulin glargine [Basaglar KwikPen U-100 Insulin] 100 
unit/mL (3 mL) AS DIR 30 Units before BKFT; Disp #*3 Syringe 
Refills:*0
RX *blood-glucose meter [OneTouch Ultra2]  As directed qAC and 
qHS Disp #*1 Kit Refills:*0
RX *insulin lispro [Humalog KwikPen Insulin] 100 unit/mL AS DIR 
12 Units before BKFT; 12 Units before LNCH; 12 Units before 
DINR; Disp #*5 Syringe Refills:*0 
6.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice a day Disp 
#*60 Tablet Refills:*0 
7.  Aspirin 81 mg PO DAILY  
8.  BuPROPion (Sustained Release) 200 mg PO BID  
9.  Chlorthalidone 25 mg PO DAILY  
10.  Cilostazol 100 mg PO BID  
11.  irbesartan 300 mg oral DAILY  
12.  LOPERamide 2 mg PO QID:PRN diarrhea  
13.  LORazepam ___ mg PO QHS:PRN insomnia  
14.  Propranolol 10 mg PO DAILY  
15.  QUEtiapine Fumarate 200 mg PO QHS  
16.  ZIPRASidone Hydrochloride 80 mg PO BID  
17.Supplies
OneTouch UltraSoft Lancets 100 Each (1 Pack)
Disp: 2
Dx: Diabetes (ICD E11.9)

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came to the hospital with high blood sugars and were found 
to have worsening diabetes.  You were started on insulin.  You 
and your daughter were taught how to use the insulin pen.  
Please continue to check your blood sugars before meals and at 
bedtime, and take the insulin as prescribed.  Keep a log of your 
blood sugar readings to bring to your follow-up appointments.  

Please follow-up with your primary care doctor, an 
endocrinologist (diabetes management) and a Neurologist 
(dementia specialist, formal cognitive testing).  Appointment 
times below.  For Endocrinology (diabetes) follow-up, call 
___ to schedule.

While you were here, you were found to have an HSV herpes 
outbreak so you were started on acyclovir.  Please take this 
medication twice daily for 5 days, then stop.

Your cholesterol medication was also changed while you were in 
the hospital.  You should STOP taking simvastatin, and START 
taking atorvastatin.

You should have a follow-up x-ray for your right knee in ___ 
weeks to ensure the fluid has decreased.

Your thyroid hormone level was also slightly high.  Please have 
a repeat TSH and free T4 lab test with your primary care doctor. 
 This test can be an early sign of hypothyroidism.

It was a pleasure taking care of you at ___!
-- Your ___ Team
 
Followup Instructions:
___